US04486432
Preparation of 6-(3-chloroanilino)-5,8-quinoxalinedione
Following the procedure of Example 5,3-chloroaniline was reacted with the aqueous solution of 5,8-dimethoxyquinoxaline in the presence of cerium chloride to give the title compound. Mass spectrum gave M+ of 285 and 287.

reactant | 5,8-dimethoxyquinoxaline | COC1=C2N=CC=NC2=C(C=C1)OC | C10H10N2O2
reactant | cerium chloride | [Cl-].[Ce+3].[Cl-].[Cl-]
product | 6-(3-chloroanilino)-5,8-quinoxalinedione | ClC=1C=C(NC=2C(C=3N=CC=NC3C(C2)=O)=O)C=CC1 | C14H8ClN3O2
